US05583247
(3,5-Di-tert-amyl-4-oxocyclohexa-2,5-dienylidene)acetic Acid
15.0 g (0.064 Mol) of 2,6-di-tert-amylphenol and 11.4 g (0.077 mol) of 50% aqueous glyoxylic acid are dissolved in 100 ml of acetic acid. The solution is then saturated at 15°-25° C. with hydrogen chloride gas and stirred at room temperature for additional four hours. The mixture is then poured in 400 ml of ice-water and extracted with 200 ml of ethyl acetate. The ethyl acetate layer is washed several times with water, dryed over anhydrous sodium sulfate, and evaporated in vacuo. The oily residue is then chromatographed on silica gel with ethyl acetate:hexane (1:20→1:3). The pure fractions are recrystallized from hexane to give 6.5 g of the title compound as orange needles, melting at 109°-110° C.

reactant | 2,6-di-tert-amylphenol | 0.064 Mol, 15.0 g | C(C)(C)(CC)C1=C(C(=CC=C1)C(C)(C)CC)O | C16H26O
reactant | glyoxylic acid | 0.077 mol, 11.4 g | C(C=O)(=O)O | C2H2O3
reactant | hydrogen chloride | Cl | ClH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | (3,5-Di-tert-amyl-4-oxocyclohexa-2,5-dienylidene)acetic Acid | 6.5 g | C(C)(C)(CC)C1=CC(C=C(C1=O)C(C)(C)CC)=CC(=O)O | C18H26O3
